* ASAP5 107 OSDI instance geometry
.include results/candidates/asap5_v107_fixed_20260904/nmos_instance.pm
.include results/candidates/asap5_v107_fixed_20260904/pmos_instance.pm
VDD vdd 0 0.7
VIN in 0 0
NP0 out in vdd vdd pmos_lvt TFIN=5n HFIN=32n NFIN=1 L=14n LRSD=16n
NN0 out in 0 0 nmos_lvt TFIN=5n HFIN=32n NFIN=1 L=14n LRSD=16n
RLOAD out 0 1meg
.control
pre_osdi /home/ZhangLexin/PALS/wmpc-gt2n-compat/results/gt2n_ngspice_compat_20260903/toolchain_check/bsim_versions/bsimcmg_v107.osdi
op
print v(out)
dc VIN 0 0.7 0.1
print v(in) v(out)
quit
.endc
.end
